US08604069B2
(A-82-18) tert-Butyl 5-(tert-butyldiphenylsilanyloxy)-3-[4-cyclopropyl-5-(3-isobutylcyclobutyl)isoxazol-3-yl]valerate
tert-Butyl 5-(tert-butyldiphenylsilanyloxy)-3-[4-iodo-5-(3-isobutylcyclobutyl)isoxazol-3-yl]valerate (37.44 g), 2-cyclopropyl-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (17.58 g) and DMF (262 mL) were mixed. After the resulting solution was degassed by bubbling argon, tripotassium phosphate (33.32 g) and PdCl2(PPh3)2 (3.67 g) were added to the mixture. The mixture was stirred at 80° C. overnight. After water (200 mL) was poured into the reaction, the resultant precipitate was removed by filtration and the filtrate was extracted with toluene (600 mL). The organic layer was washed with water (200 mL×2, 320 mL) and brine (160 mL), then dried over sodium sulfate. The sodium sulfate was filtered off and the filtrate was concentrated in vacuo. After an addition of silica gel (45 g) and ethyl acetate/hexane=1/20 (400 mL) to the residue, the mixture was stirred at RT. The silica gel was filtered off and the filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (Eluent: ethyl acetate/hexane=1/80→1/60→1/50) to give the title compound (20.2 g).

reactant | tert-Butyl 5-(tert-butyldiphenylsilanyloxy)-3-[4-iodo-5-(3-isobutylcyclobutyl)isoxazol-3-yl]valerate | 37.44 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC(CC(=O)OC(C)(C)C)C1=NOC(=C1I)C1CC(C1)CC(C)C | C36H50INO4Si
reactant | 2-cyclopropyl-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 17.58 g | C1(CC1)B1OC(C(O1)(C)C)(C)C | C9H17BO2
solvent | DMF | 262 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 5-(tert-butyldiphenylsilanyloxy)-3-[4-cyclopropyl-5-(3-isobutylcyclobutyl)isoxazol-3-yl]valerate | 20.2 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC(CC(=O)OC(C)(C)C)C1=NOC(=C1C1CC1)C1CC(C1)CC(C)C | C39H55NO4Si
